US05948793
3a. 2-((1-methyl-2-(S)-pyrrolidinyl)methoxy)pyrazine
(S)-(-)-1-Methyl-2-pyrrolidinemethanol (Aldrich Chemical Co., 0.5 g, 4.34 mmol) was dissolved in anhydrous THF and brought to 0° C. NaH ((80% dispersion in mineral oil), 131 g, 4.56 mmol) was added and the reaction mixture was allowed to warm to room temperature with stirring. After 30 minutes 2-chloropyrazine (0.497 g, 4.34 mmol) was added via syringe. The mixture was stirred for 48 hours. The solvent was then evaporated in vacuo and the mixture diluted with chloroform, washed with saturated NaHCO3 and a brine solution. The organic layer was then dried over MgSO4. The resulting crude material was purified by flash chromatography (10% MeOH/CHCl3) to give 0.81 g (97% yield) of the title compound as an oil. TLC Rf =0.3 (10% MeOH/CHCl3). MS (DCI/NH3) m/e 194 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 8.24 (d, J=1.5 Hz, 1H, 8.11 (d, J=3 Hz, 1H), 8.07 (dd, J=3, 1.5 Hz, 1H), 4.36 (dd, J=9, 6 Hz, 1H), 4.28 (dd, J=9, 6 Hz, 1H), 3.16-3.08 (m, 1H, 2.7-2.58 (m, 1H, 2.47 (s, 3H), 2.34-2.24 (m, 1H, 2.08-1.93 (m, 1H, 1.91-1.67 (m, 3H).

reactant | (S)-(-)-1-Methyl-2-pyrrolidinemethanol | 4.34 mmol, 0.5 g | CN1[C@@H](CCC1)CO | C6H13NO
reactant | NaH | 4.56 mmol, 131 g | [H-].[Na+]
reactant | 2-chloropyrazine | 4.34 mmol, 0.497 g | ClC1=NC=CN=C1 | C4H3ClN2
solvent | THF | C1CCOC1 | C4H8O
product | 2-((1-methyl-2-(S)-pyrrolidinyl)methoxy)pyrazine | 0.81 g, 97% yield | CN1[C@@H](CCC1)COC1=NC=CN=C1 | C10H15N3O
